* 250 V common-cathode high-mu triode-inspired stage
VINPUT in 0 DC 0
EINPUT source 0 in 0 0.42
RGRID source grid 68k
RLEAK grid 0 1meg
VBPLUS bplus 0 DC 250
RPLATE bplus plate 100k
RK cathode 0 1.5k
RLOAD plate 0 1meg
BTRIODE plate cathode I={0.0060*pow(max(V(grid,cathode)+V(plate,cathode)/100,0),1.5)}
DGRID grid cathode DGRID
DCLAMP cathode plate DCLAMP
.model DGRID D(Is=1n N=1.5 Rs=220 Cjo=2p)
.model DCLAMP D(Is=1p N=1 Rs=0.1)
.control
set noaskquit
set wr_singlescale
set wr_vecnames
dc VINPUT -5 5 0.00125
wrdata ax7_data_dc.tsv v(in) v(plate)
quit
.endc
.end
